US07442805B2
Synthesis of 3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate and 4-trifluoromethoxy-benzenesulfonyl chloride followed the procedures of Example 1 Step 2 & Step 3 as a dark brown solid: 1H NMR (DMSO-d6) δ 7.01 (d, J=1.8 Hz, 1H), 7.06 (dd, J=8.7, 1.9 Hz, 1H, 7.28-7.42 (m, 6H, 7.50 (d, J=6.9 Hz, 2H, 7.74 (d, J=8.9 Hz, 2H, 9.94 (s, 1H, 11.84 (s, 1H, 12.89 (br s, 1H; MS (ESI) m/z 475 [M-H]−; HRMS calcd for C22H16F3N2O5S: 477.0730; found (ESI+): 477.0719; Anal. calcd for C22H15F3N2O5S.0.15H2O: C, 55.15; H, 3.22; N, 5.85. Found: C, 54.95; H, 3.23; N, 5.93.

reactant | ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)C(=O)OCC)C1=CC=CC=C1 | C17H14N2O4
reactant | 4-trifluoromethoxy-benzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | 3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid | C1(=CC=CC=C1)C1=C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C22H15F3N2O5S
